US06599922B2
Process for the synthesis of FLECAINIDE comprising the reaction between 2,5-dihydroxybenzoic acid with trifluoroethanol perfluorobutanesulphonate to give the intermediate trifluoroethanol 2,5-bis-trifluoroethoxybenzoate, the reaction of said intermediate with 2-aminomethylpiperidine to give FLECAINIDE.

reactant | FLECAINIDE | C1=CC(=C(C=C1OCC(F)(F)F)C(=O)NCC2CCCCN2)OCC(F)(F)F | C17H20F6N2O3
reactant | 2,5-dihydroxybenzoic acid | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | trifluoroethanol perfluorobutanesulphonate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OCC(F)(F)F)F | C6H2F12O3S
product | trifluoroethanol 2,5-bis-trifluoroethoxybenzoate | FC(COC1=C(C(=O)OCC(F)(F)F)C=C(C=C1)OCC(F)(F)F)(F)F | C13H9F9O4
